US06093732
A mixture of 2-nitroaniline (6.907 g) and diethyl ethoxymethylenemalonate (10.812 g) is heated to 130° C. for 2 h with removal of ethanol by a Dean-Stark trap. The mixture is cooled to 80° C. Diphenyl ether (60 mL) is added and the mixture is heated to 250° C. for 2 h. The solution is cooled to room temperature. The resulting solid is collected, washed with hexanes and dried to yield 3.447 g of ethyl 4-hydroxy-8-nitroquinolone-3-carboxylate as a gold solid. To a mixture of this ester (1.2 g) in 66 mL of 1:1 MeOH:THF is added 18 mL of 1M LiOH. The reaction is maintained at 40° C. overnight. The reaction mixture is cooled to room temperature, then diluted with 35 mL glacial acetic acid. The resulting precipitate is collected, washed with H2 0 and hot isopropanol, and dried to yield 0.639 g of 4-hydroxy-8-nitroquinoline-3-carboxylic acid as a yellow solid. A mixture of this acid (0.20 g) and p-chlorobenzylamine (0.10 mL) are dissolved in 25 mL xylenes and heated to reflux. PCl3 (0.037 mL) is added dropwise and the mixture is refluxed for 4 hours. The reaction mixture is cooled to room temperature and H2O is added to quench excess PCl3. An orange solid precipitates, which is collected, washed with ether, and dried. The crude product is recrystallized with hot MeOH to yield 0.0367 g of the desired product as a yellow solid.

reactant | 2-nitroaniline | 6.907 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | diethyl ethoxymethylenemalonate | 10.812 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Diphenyl ether | 60 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-hydroxy-8-nitroquinolone-3-carboxylate | 3.447 g | OC1=C(C(NC2=C(C=CC=C12)[N+](=O)[O-])=O)C(=O)OCC | C12H10N2O6
